US04368311
1.2 Acetylacetone isopropylimine
0.1 Mole (5.9 g.) isopropylamine is mixed with 0.1 mole (10 g.) acetylacetone. An exothermal reaction takes place in which a yellowish, crystalline ketimine is obtained which, after one day, slowly melts and then remains liquid.

reactant | isopropylamine | 0.1 Mole, 5.9 g | C(C)(C)N | C3H9N
reactant | acetylacetone | 0.1 mole, 10 g | C(C)(=O)CC(C)=O | C5H8O2
product | Acetylacetone isopropylimine | C(C)(C)N=C(C)CC(C)=O | C8H15NO
